US08202858B2
4-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-butyric Acid Tert-butyl Ester
WSCD (391 mg, 2.06 mmol) and DMAP (133 mg, 1.09 mmol) were added to a solution of 4-(3-tert-butoxycarbonyl-propoxy)-3-methyl-benzoic acid from Example E42 (275 mg, 0.94 mmol) and 3-methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene from Example E11 (191 mg, 0.95 mmol) in dichloromethane (30 ml) and triethylamine (0.28 ml, 2.01 mmol). The mixture was heated at reflux for 72 h, washed with 0.3M KHSO4, saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; EtOAc) to yield the title compound (80 mg, 18%).

reactant | 4-(3-tert-butoxycarbonyl-propoxy)-3-methyl-benzoic acid | C(C)(C)(C)OC(=O)CCCOC1=C(C=C(C(=O)O)C=C1)C | C16H22O5
reactant | 3-methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene | CN1N=CC=2CNC3=C(NC12)C=CC=C3 | C11H12N4
reactant | triethylamine | 2.01 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 1.09 mmol, 133 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-butyric Acid Tert-butyl Ester | 80 mg, 18% | C(C)(C)(C)OC(CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C27H32N4O4
